US08217065B2
E. 6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-benzoimidazole
To a 50 ml rbf was added 0.2250 g (0.785 mmol) 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]benzene-1,2-diamine, 0.2041 g (0.785 mmol) of 2,6-Dichloro-4-morpholin-4-yl-benzaldehyde, and 5 mL of DMSO. To this dark brown solution was added 0.0190 g (0.118 mmol) of FeCl3. It was allowed to stir open to air for 18 h. The crude was then extracted with EtOAc, and the combined extracts were washed with water, brine and dried with Na2SO4. The volatiles were removed in vacuo and the concentrate was purified on silica gel (ACN/DCM, 1:9 to 10:0) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.30 (d, J=5.05 Hz, 4 H) 3.71-3.77 (m, 4 H) 7.17 (s, 2 H) 7.70-7.75 (m, 2 H) 7.90 (d, J=8.72 Hz, 1 H) 7.99-8.07 (m, 1 H) 8.19 (d, J=8.21 Hz, 2 H) 8.27 (br. s., 1 H) 8.47 (s, 1 H) 13.17 (d, J=8.97 Hz, 1H. MS (m/z) 528.0 M (+1), tR=1.41, Meth 10

reactant | 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]benzene-1,2-diamine | 0.785 mmol, 0.2250 g | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1C=C(C(=CC1)N)N | C14H11ClN4O
reactant | 2,6-Dichloro-4-morpholin-4-yl-benzaldehyde | 0.785 mmol, 0.2041 g | ClC1=C(C=O)C(=CC(=C1)N1CCOCC1)Cl | C11H11Cl2NO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-(2,6-dichloro-4-morpholin-4-yl-phenyl)-1H-benzoimidazole | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2Cl)N2CCOCC2)Cl)C1 | C25H18Cl3N5O2
